US06225352B1
Toluene-4-sulfonic Acid 2(3,5-dimethoxy-benzyloxy)phenyl Ester
Toluene-4-sulfonic acid, 2-hydroxyphenyl ester (0.64 g, 2.42 mmol), 4-bromomethyl-1,3-dimethoxy-benzene (0.56 g, 2.42 mmol), potassium carbonate (0.36 g, 2.62 mmol) and 18-crown-6-ether (0.06 g, 0.24 mmol) were stirred together at room temperature in acetone (20 cm3, 99%) under nitrogen for 28 hours. The solution was evaporated under reduced pressure, and the residue was taken up in dichloromethane (20 cm3) and water (20 cm3). The aqueous layer was extracted with dichloromethane (2×20 cm3), and the combined extracts were washed with water (2×50 cm3), dried (MgSO4), and evaporated under reduced pressure. The residue was chromatographed (SiO2, dichloromethane) to give the ether, (0.84 g, 83%) as a clear oil.

reactant | Toluene-4-sulfonic acid, 2-hydroxyphenyl ester | 2.42 mmol, 0.64 g | C1(=CC=C(C=C1)S(=O)(=O)OC1=C(C=CC=C1)O)C | C13H12O4S
reactant | 4-bromomethyl-1,3-dimethoxy-benzene | 2.42 mmol, 0.56 g | BrCC1=C(C=C(C=C1)OC)OC | C9H11BrO2
reactant | potassium carbonate | 2.62 mmol, 0.36 g | C([O-])([O-])=O.[K+].[K+]
reactant | 18-crown-6-ether | 0.24 mmol, 0.06 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | acetone | 20 cm3 | CC(=O)C | C3H6O
product | Toluene-4-sulfonic Acid 2(3,5-dimethoxy-benzyloxy)phenyl Ester | COC=1C=C(COC2=C(C=CC=C2)OS(=O)(=O)C2=CC=C(C=C2)C)C=C(C1)OC | C22H22O6S
